US04141982
In a manner analogous to that described in Example 12, 4.1 g of 5-acetyl-1-methyl-benzimidazole-2-methanol can be oxidised with 4 g of potassium permanganate to give 5-acetyl-1-methyl-benzimidazole-2-carboxylic acid with a melting point above 135°.

reactant | 5-acetyl-1-methyl-benzimidazole-2-methanol | 4.1 g | C(C)(=O)C1=CC2=C(N(C(=N2)CO)C)C=C1 | C11H12N2O2
reactant | potassium permanganate | 4 g | [Mn](=O)(=O)(=O)[O-].[K+]
product | 5-acetyl-1-methyl-benzimidazole-2-carboxylic acid | C(C)(=O)C1=CC2=C(N(C(=N2)C(=O)O)C)C=C1 | C11H10N2O3
